US07452886B2
To a solution of 5 g of 2,4-dichloro-5-nitro-pyrimidine in 150 ml of dichloromethan 3.1 g of neopentylamine and 10.5 ml of diisopropylethylamine were added in succession at 0° C. After 2 hours the mixture was washed with saturated NaHCO3 solution, dried over sodium sulfate and evaporated to dryness yielding (2-Chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine as yellow cristals.

reactant | 2,4-dichloro-5-nitro-pyrimidine | 5 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | neopentylamine | C(C(C)(C)C)N | C5H13N
reactant | diisopropylethylamine | 10.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethan | 150 ml, 3.1 g | ClCCl | CH2Cl2
product | (2-Chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | ClC1=NC=C(C(=N1)NCC(C)(C)C)[N+](=O)[O-] | C9H13ClN4O2
